US07598257B2
To a solution of diethyl cyanomethylphosphonate (70 mg, 0.0004 mol) in THF (2 mL, 0.02 mol) cooled at 0° C. was added 1.0 M potassium tert-butoxide in THF (0.50 mL) dropwise. The cold bath was removed and the reaction was warmed to room temperature over 30 minutes. The reaction was cooled to 0° C. and a solution of 5-morpholin-4-ylnicotinaldehyde (70 mg, 0.0004 mol) in THF (2 mL, 0.02 mol) was added dropwise. The reaction was stirred at room temperature for 4 h, quenched with water and extracted with ethyl acetate. The combined organic layers were washed with saturated sodium chloride, dried over magnesium sulfate, filtered and concentrated to give (2E)-3-(5-morpholin-4-ylpyridin-3-yl)acrylonitrile (75 mg, 100%) as a mixture of isomers; LC/MS: 216 (M+1). Step 4: 3-(5-Morpholin-4-yloyridin-3-yl)-3-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]-pyrimidin-4-yl)-1H-pyrazol-1-yl]propanenitrile

reactant | diethyl cyanomethylphosphonate | 0.0004 mol, 70 mg | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | 5-morpholin-4-ylnicotinaldehyde | 0.0004 mol, 70 mg | N1(CCOCC1)C=1C=NC=C(C=O)C1 | C10H12N2O2
solvent | THF | 0.50 mL | C1CCOC1 | C4H8O
solvent | THF | 0.02 mol, 2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.02 mol, 2 mL | C1CCOC1 | C4H8O
product | (2E)-3-(5-morpholin-4-ylpyridin-3-yl)acrylonitrile | 75 mg, 100% | N1(CCOCC1)C=1C=C(C=NC1)/C=C/C#N | C12H13N3O
